US03966965
2-Dimethylamino-6-nitrobenzonitrile is prepared from molar equivalents of 2,6-dini trobenzonitrile and dimethylamine hydrochloride in dimethylformamide in the presence of aqueous KOH.

reactant | 2,6-dini trobenzonitrile | [N+](=O)([O-])C1=C(C#N)C(=CC=C1)[N+](=O)[O-] | C7H3N3O4
reactant | dimethylamine hydrochloride | Cl.CNC
reactant | KOH | [OH-].[K+]
reactant | dimethylformamide | CN(C=O)C | C3H7NO
product | 2-Dimethylamino-6-nitrobenzonitrile | CN(C1=C(C#N)C(=CC=C1)[N+](=O)[O-])C | C9H9N3O2
